US04919708
To a stirred ice cold solution of 1.5 g (0.0048 mole) of 1-(4-chloro-2-fluoro-5-methoxyphenyl)-3-difluoromethyl-4,5-dihydro-4-methyl-1,2,4-triazol-5(1H)-one in 80 mL of methylene chloride was added dropwise 14.2 mL of a 1M solution of boron tribromide in methylene chloride. After complete addition the mixture was allowed to warm to room temperature and stir for approximately 18 hours. The mixture was poured into ice water and the resultant mixture stirred until the ice had melted. The organic phase was separated from the mixture and was washed with two portions of water. After washing, the organic phase was dried over anhydrous magnesium sulfate and filtered. Evaporation of the filtrate under reduced pressure yielded 1.2 g of 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-3-difluoromethyl-4,5-dihydro-4-methyl-1,2,4-triazol-5(1H)-one (mp 153°-155° C.), Compound 23.

reactant | 1-(4-chloro-2-fluoro-5-methoxyphenyl)-3-difluoromethyl-4,5-dihydro-4-methyl-1,2,4-triazol-5(1H)-one | 0.0048 mole, 1.5 g | ClC1=CC(=C(C=C1OC)N1N=C(N(C1=O)C)C(F)F)F | C11H9ClF3N3O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-3-difluoromethyl-4,5-dihydro-4-methyl-1,2,4-triazol-5(1H)-one | 1.2 g | ClC1=CC(=C(C=C1O)N1N=C(N(C1=O)C)C(F)F)F | C10H7ClF3N3O2
